US08809304B2
(2-1) Synthesis of 4-fluoro-3-trifluoromethylbenzoic Acid Benzyl Ester (Reference Example Compound 2-1)
4-Fluoro-3-trifluoromethylbenzoic acid (100 g) was dissolved in N,N-dimethylformamide (400 ml), potassium carbonate (199 g) and benzyl bromide (84.0 g) were added under ice-cooling, and the mixture was stirred for 20 min under ice-cooling and at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the object product (144 g) as a pale-yellow oil.

reactant | 4-Fluoro-3-trifluoromethylbenzoic acid | 100 g | FC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4F4O2
reactant | potassium carbonate | 199 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 84.0 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 4-fluoro-3-trifluoromethylbenzoic Acid Benzyl Ester | 144 g | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)F)C(F)(F)F)=O | C15H10F4O2
